US07772285B2
2.90 g of 3-cyclopentylphenol was dissolved in 14.5 mL of toluene, to which 0.21 mL of tin tetrachloride and 1.7 mL of tri-n-butylamine were added at room temperature in a stream of nitrogen, and then this mixture was stirred for 30 minutes at room temperature followed by addition thereto of 1.18 g of paraformaldehyde, and this mixture was stirred for 1.5 hours at 80° C. Then, the reaction mixture was cooled to room temperature and poured into water, to which methylene chloride was added, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=10:1] to yield 0.77 g of 4-cyclopentyl-2-hydroxybenzaldehyde as yellow oil.

reactant | 3-cyclopentylphenol | 2.90 g | C1(CCCC1)C=1C=C(C=CC1)O | C11H14O
reactant | paraformaldehyde | 1.18 g | C=O | CH2O
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 14.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | tin tetrachloride | 0.21 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | tri-n-butylamine | 1.7 mL | C(CCC)N(CCCC)CCCC | C12H27N
product | 4-cyclopentyl-2-hydroxybenzaldehyde | 0.77 g | C1(CCCC1)C1=CC(=C(C=O)C=C1)O | C12H14O2
